US07276612B2
To a solution of 3-(2,2,2-trifluoroethoxymethyl)benzofuran-2-carboxylic acid (38 mg, 0.139 mmol) in anhydrous DMF was added EDC.HCl (37 mg, 0.195 mmol) and HOBt.H2O (26 mg, 0.195 mmol). After 60-90 min., methyl-(4-(2-ethoxyamine))benzoate hydrochloric salt (32 mg, 0.139 mmol) and triethylamine (23 μL, 0.167 mmol) were added and the reaction mixture was stirred for 1-2 h. The reaction mixture was diluted with EtOAc and washed twice with saturated NaHCO3(aq.) and the organic extract was concentrated to give methyl 4-{2-[3-(2,2,2-trifluoroethoxymethyl)benzofuran-2-yl-carbonylamino]ethoxy}-benzoate, which was then used without further purification.

reactant | 3-(2,2,2-trifluoroethoxymethyl)benzofuran-2-carboxylic acid | 0.139 mmol, 38 mg | FC(COCC1=C(OC2=C1C=CC=C2)C(=O)O)(F)F | C12H9F3O4
reactant | EDC.HCl | 0.195 mmol, 37 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.195 mmol, 26 mg | O | H2O
reactant | triethylamine | 0.167 mmol, 23 μL | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-{2-[3-(2,2,2-trifluoroethoxymethyl)benzofuran-2-yl-carbonylamino]ethoxy}-benzoate | FC(COCC1=C(OC2=C1C=CC=C2)C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)(F)F | C22H20F3NO6
